Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization ___
 
History of Present Illness:
___ diabetic male with history of inferior STEMI (___) 
post-DES to mid- and distal-RCA, then NSTEMI (___) 
post-overlapping DES to ulcerated OM lesion, active tobacco use, 
hospitalized for hemodynamically stable anterolateral STEMI now 
post- uncomplicated revascularization of culprit LAD occlusion. 
Patient was in his usual state of health, with exception of 
subacute upper respiratory congestion, until four o'clock this 
morning when he, in no particular context, developed sudden, 
severe left-sided chest pain with concurrent left shoulder and 
upper arm pains, which he likened to prior cardiac events. He 
thinks he might have been diaphoretic for a whole day prior. ST 
elevations were first noted in V2-V4, prompting angiography, 
which revealed total occlusion of mid-LAD as well as chronic 
total occlusion of the mid-RCA and 70% stenosis OM1. DES was 
deployed to culprit LAD lesion and then loaded with ticagrelor. 
ST elevations later spread, involving V5-V6 and inferior leads 
too. He had residual chest pain ___ in severity 
post-revascularization, which lessened to ___ after addition of 
nitroglycerin gtt. MAP was likewise in the 100 to 110-range, 
hence nitroglycerine gtt. Patient reports chest pain has 
entirely subsided by arrival to the CCU. He is not forthcoming 
with medication compliance but admits to hiatus from routine 
cardiology care.

REVIEW OF SYSTEMS: constitutionally, he is fatigued, which he 
attributes to unrelenting upper respiratory congestion and 
post-nasal drip that preclude adequate sleep, but otherwise has 
no concerns. He "could probably use his [albuterol] inhaler," 
but has no shortness of breath. His exercise tolerance is 
unchanged in recent weeks to months. He is less diaphoretic at 
present and lightheadedness has subsided. Cardiovascular 
symptoms, as above. He denies nausea or vomiting. 10-point 
review of systems is negative except as noted above. 
 
Past Medical History:
- CAD, Inferior STEMI, ___ - 3.5 x 15 Promus distal
RCA,
3.5 x 18 Promus mid RCA at the site of ulceration, 2.5 x 15 mm
Promus RPLV.
- NSTEMI, presented with increasing frequency of chest pressure
radiating to his ___ - ulcerated OM lesion
treated with 2.5 x 18 mm and 2.5 x 8 mm overlapping Resolute
stents. Residual diagonal disease up to 70% and 2-mm vessel.
- Active tobacco use.
- COPD
- Hypertension.
- Diabetes Type II
- Dyslipidemia. The patient had myalgias on atorvastatin
previously but is tolerating it well now.
- h/o depression 
- h/o VitD deficiency 
- h/o chronic sinusitis 
 
Social History:
___
Family History:
mother died at ___ from ovarian cancer  
mother with HTN  
father died at ___  
father with CVA, MI  
no known history of diabetes
 
Physical Exam:
ADMISSION EXAM
==============
VS: Metavision. 
GENERAL: resting male in no apparent distress. Appears
diaphoretic. 
HEENT: anicteric sclerae. Oropharynx clear. 
NECK: JVP undetectable. 
CARDIAC: tachycardic, regular, S1/S2, +S4, no murmurs or rubs.
PMI not displaced.
LUNGS: unlabored, CTAB. 
ABDOMEN: soft, non-tender, non-distended. 
EXTREMITIES: warm, well perfused, without edema. Clubbing of
fingernails and toenails. 
SKIN: no rash. 
PULSES: distal pulses palpable and symmetric. Right T-band
applied.  
NEURO: non-focal.

DISCHARGE EXAM
==============
VS: 24 HR Data (last updated ___ @ 344)
Temp: 97.5 (Tm 98.5), BP: 142/93 (95-142/61-93), HR: 80
(78-94), RR: 16 (___), O2 sat: 96% (92-99), O2 delivery: Ra,
Wt: 157.41 lb/71.4 kg  
GENERAL: lying in bed in no acute distress - frequent wet cough 
HEENT: anicteric sclerae. Oropharynx clear. 
NECK: JVP approximately 10cm
CARDIAC: tachycardic, regular, S1/S2, +S4, no murmurs or rubs.
PMI not displaced.
LUNGS: unlabored, expiratory wheezing, otherwise CTAB 
ABDOMEN: soft, non-tender, non-distended. 
EXTREMITIES: warm, well perfused, without edema. Clubbing of
fingernails and toenails. 
SKIN: no rash. 
PULSES: distal pulses palpable and symmetric. 
NEURO: A&Ox3, moving all 4 extremities with purpose

 
Pertinent Results:
ADMISSION LABS
==============
___ 08:50AM BLOOD WBC-12.7* RBC-4.36* Hgb-13.0* Hct-38.5* 
MCV-88 MCH-29.8 MCHC-33.8 RDW-12.0 RDWSD-38.8 Plt ___
___ 08:50AM BLOOD Neuts-86.0* Lymphs-9.6* Monos-3.4* 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-10.88* AbsLymp-1.22 
AbsMono-0.43 AbsEos-0.01* AbsBaso-0.03
___ 08:50AM BLOOD ___ PTT-28.4 ___
___ 08:50AM BLOOD Glucose-461* UreaN-17 Creat-1.0 Na-135 
K-5.0 Cl-96 HCO3-25 AnGap-14
___ 10:03AM BLOOD ALT-47* AST-105* AlkPhos-85 TotBili-0.3
___ 08:50AM BLOOD cTropnT-0.06*
___ 10:03AM BLOOD proBNP-1191*
___ 10:03AM BLOOD Calcium-9.1 Phos-3.3 Mg-2.2 Cholest-120
___ 10:03AM BLOOD Triglyc-65 HDL-26* CHOL/HD-4.6 LDLcalc-81
___ 10:03AM BLOOD %HbA1c-11.1* eAG-272*
___ 10:30AM BLOOD Lactate-2.8*

DISCHARGE LABS
===============
___ 07:00AM BLOOD WBC-17.4* RBC-4.04* Hgb-11.7* Hct-35.5* 
MCV-88 MCH-29.0 MCHC-33.0 RDW-12.5 RDWSD-39.4 Plt ___
___ 07:00AM BLOOD ___ PTT-29.8 ___
___ 07:00AM BLOOD Glucose-172* UreaN-17 Creat-0.8 Na-139 
K-4.2 Cl-101 HCO3-25 AnGap-13
___ 07:00AM BLOOD Calcium-9.2 Phos-4.2 Mg-2.1

IMAGING/STUDIES
================
CXR ___
Increased interstitial opacities throughout the lungs, more 
following the 
lower lungs, could reflect pneumonia (such as atypical 
pneumonia) versus less likely mild edema. 

Left Heart Cath ___
Coronary Description LM The left main coronary artery is with no 
significant disease. LAD The left anterior descending coronary 
artery is with 100% mid occlusion. D1 is with 90% proximal focal 
followed by a region of long diffuse 80-90%. Circ The circumflex 
coronary artery is with widely patent prior stents and smooth 
70% focal OM1. RCA The right coronary artery is with 100% mid 
in-stent chronic occlusion. There are left-to-right and rightto- 
right collaterals present. Interventional Details Percutaneous 
Coronary Intervention: Percutaneous coronary intervention (PCI) 
was performed on an ad hoc basis based on the coronary 
angiographic findings from the diagnostic portion of this 
procedure. A 6 ___ EBU3.5 guide provided adequate support. 
Heparin given and a therapeutic ACT confirmed. Crossed easily 
with a Scion Blue wire into the distal LAD. Dottered and 
predilated with a 2.0 mm balloon at 10 atm restoring antegrade 
flow. Further predilated with a 3.0 mm balloon at ___ atm and 
then deployed a 3.0mm x 32mm DES at 12 atm post-dilated with a 
3.0mm NC balloon at ___ atm. The patient had improving chest 
and arm discomfort at procedure end. Final angiography revealed 
normal flow, no dissection and 0% residual stenosis. 
Complications: There were no clinically significant 
complications

TTE ___
The left atrial volume index is normal. There is normal left 
ventricular wall thickness with a normal cavity size. There is 
SEVERE regional left ventricular systolic dysfunction with 
thinning and akinesis of the basal inferior and inferolateral 
segments (old infarct), as well as near-akinesis of the mid- and 
distal anterior wall, anterior septum and apex (see schematic) 
and preserved/normal contractility of the remaining segments. 
These findings are consistent with multivessel CAD. A small 
nonmobile mural left ventricular THROMBUS is seen, abutting the 
LV apex and distal septum. Quantitative 3D volumetric left 
ventricular ejection fraction is 28 %. There is no resting left 
ventricular outflow tract gradient. No ventricular septal defect 
is seen. Normal right ventricular cavity size with normal free 
wall motion. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. The aortic valve leaflets (3) are mildly 
thickened. There is no aortic valve stenosis. There is trace 
aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. There is mild 
[1+] mitral regurgitation. The tricuspid valve leaflets appear 
structurally normal. There is mild [1+] tricuspid regurgitation. 
There is mild pulmonary artery systolic hypertension. There is 
no pericardial effusion. IMPRESSION: Severe regional left 
ventricular systolic dysfunction, c/w multivessel disease, prior 
inferoposterior MI and a more recent anteroapical infarction. 
Small apical LV thrombus. MIld mitral regurgitation. Mild 
pulmonary hypertension. Compared with the prior TTE (images not 
available for review) of ___, LV function has declined, 
with new LAD-territory regional dysfunction. There is a new LV 
thrombus.

 
Brief Hospital Course:
___ diabetic male with history of inferior STEMI (___) 
post-DES to mid- and distal-RCA, then NSTEMI (___) 
post-overlapping DES to ulcerated OM lesion, active tobacco use 
hospitalized for hemodynamically stable large territory STEMI 
now post- uncomplicated revascularization of culprit LAD 
occlusion.

#CORONARIES:LAD 100% mid-occlusion. D1 90% proximal focal 
occlusion followed by a region of long diffuse 80-90% stenosis. 
LCX prior stents are widely patent with smooth 70% focal OM1. 
RCA mid in-stent CTO. There are left-to-right and right-to-right 
collaterals present.
#PUMP: 28%
#RHYTHM: sinus tachycardia. 

ACUTE ISSUES: 
==============
#STEMI, anterolateral
#reduced EF 28% 
#LV thrombus 
Presented to the ED in the setting of chest pain, stable without 
features of acute heart failure or cardiogenic shock, found to 
have STEMI (V2-V4 ST elevations on arrival). Cardiac cath 
revealed total occlusion of mid-LAD as well as chronic total 
occlusion of the mid-RCA and 70% stenosis OM1. DES was deployed 
to culprit LAD lesion and then loaded with ticagrelor. ST 
elevations later spread, involving V5-V6 and inferior leads. 
Required nitro gtt following cath. Started on dual anti-platelet 
therapy with ASA/ticagrelor (90 mg BID). TTE showed EF 28% and 
apical LV thrombus, started on apixaban 5mg BID. Was also 
discharged on atorvastatin 80mg, metop XL 100mg, lisinopril 10mg 
and spironolactone 12.5mg daily.

#Acute COPD Exacerbation
#Community acquired pneumonia
While admitted, patient with increased cough, mild leukocytosis, 
and concerning CXR. Was started on antibiotics with doxycycline 
(___) and 5 day prednisone burst (___) for COPD 
exacerbation. Follow-up CXR was concerning for consolidation, 
cefpodoxime was started for 5-day course (___). Home 
bronchodilators were continued. 

#poorly controlled T2DM 
A1c 11.1, last 9.7% in ___. On home metformin 1000mg 
BID which he was not taking prior to hospitalization. He was 
initiated on insulin with guidance by ___. A diabetic nurse 
educator met with patient for insulin teaching prior to 
discharge. 

CHRONIC ISSUES:
===============
#Hypertension: discharged on lisinopril 10mg and spironolactone 
12.5mg daily. 

#Dyslipidemia: started on atorvastatin 80mg qPM. 

TRANISTIONAL ISSUES
===================
[]Patient poorly compliant with medications prior to admission 
to the hospital. Please ensure that patient is taking all 
medications as prescribed. It is extremely important that he 
stay adherent to his triple therapy after stent placement (i.e., 
DAPT for DES and DOAC for LV thrombus)
[]A1c 11.1 - patient initiated on insulin. Would recommend 
reinforcing insulin teaching as an outpatient. 
[]Per ___: patient would benefit from an SGLT2 inhibitor 
(e.g.
empagliflozin/ Canagliflozin ); f/u as outpatient
[]Continue smoking cessation counseling 
[]Consider cardiac rehab referral 
[]Patient discharged on cefpodoxime for CAP, to end on ___ 

CORE MEASURES: 
============== 
#CODE: Full, confirmed.
#CONTACT/HCP: none. 
Discharge Weight: 71.4 kg
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Fluticasone Propionate NASAL 2 SPRY NU BID 
3. Lisinopril 20 mg PO DAILY 
4. Loratadine 10 mg PO DAILY 
5. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
6. Atorvastatin 80 mg PO QPM 
7. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN 
8. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
9. LORazepam 1 mg PO BID:PRN anxiety 
10. MetFORMIN XR (Glucophage XR) 1000 mg PO BID 
11. Metoprolol Succinate XL 25 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO/NG BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
2.  Cefpodoxime Proxetil 400 mg PO Q12H Duration: 4 Days 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth twice a day Disp #*8 
Tablet Refills:*0 
3.  Glargine 36 Units Bedtime
Humalog 12 Units Breakfast
Humalog 12 Units Lunch
Humalog 12 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
4.  PredniSONE 40 mg PO DAILY Duration: 1 Dose 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*1 Tablet 
Refills:*0 
5.  Spironolactone 12.5 mg PO DAILY  
6.  TiCAGRELOR 90 mg PO BID 
RX *ticagrelor [Brilinta] 90 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
7.  Lisinopril 10 mg PO DAILY  
8.  Metoprolol Succinate XL 100 mg PO DAILY  
9.  Aspirin 81 mg PO DAILY  
10.  Atorvastatin 80 mg PO QPM  
11.  Fluticasone Propionate NASAL 2 SPRY NU BID  
12.  Loratadine 10 mg PO DAILY  
13.  LORazepam 1 mg PO BID:PRN anxiety  
14.  MetFORMIN XR (Glucophage XR) 1000 mg PO BID  
15.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
16.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN  
17.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
==================
anterolateral STEMI 

SECONDARY DIAGNOSIS: 
====================
acute COPD exacerbation
poorly controlled type II diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
 
Please see below for more information on your hospitalization. 
It was a pleasure taking part in your care here at ___!

WHY WERE YOU ADMITTED TO THE HOSPITAL?
-You had a large heart attack
 
WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL?  
-You had 2 stents placed in your heart vessels to help treat 
your heart attack. You were started on blood thinners to keep 
these stents open - it is very important that you do not miss ___ 
dose of these blood thinning medications as this could cause a 
heart attack worse than the one you've already had. 
-You were started on insulin to better control your diabetes
-You were started on antibiotics and prednisone for a COPD 
exacerbation. 
 
WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
- Take all of your medications as prescribed (listed below). IT 
IS VERY IMPORTANT YOU TAKE YOUR BLOOD THINNING MEDICATIONS 
(aspirin, apixaban, and ticagrelor) EVERY DAY AS MISSING A DOSE 
OF THESE MEDICATIONS CAN CAUSE YOU TO HAVE A HEART ATTACK 
- Your insulin regimen is as follows:
---TODAY AND ___, JANAUARY ___: glargine 40 units at 
bedtime; Humalog 16 units with breakfast, lunch, and dinner. 
Follow the corrective sliding scale too.
--___ AND ON: glargine 36 units at bedtime; 
Humalog 12 units with breakfast, lunch, and dinner. Follow the 
corrective sliding scale too.
- Follow up with your doctors as listed below  
- Weigh yourself every morning, seek medical attention if your 
weight goes up more than 3 lbs.  
- Seek medical attention if you have new or concerning symptoms 
or you develop chest pain, swelling in your legs, abdominal 
distention, or shortness of breath at night.  

We wish you all the best!
- Your ___ Care Team
 
Followup Instructions:
___